US07192968B2
2-Chloro-6,7-dihydro-4H-pyrano[4,3-d]thiazole (1.78 g) was dissolved in methanol (30 ml), and to the solution 10% palladium on carbon (300 mg) and sodium acetate (830 mg) were added. The mixture was stirred for 5 days in a hydrogen stream of 5 atm. After the catalyst was separated by filtration, the filtrate was concentrated, and the residue was subjected to column chromatography on silica gel (hexane:ethyl acetate=2:1) to obtain 6,7-dihydro-4H-pyrano[4,3-d]thiazole (1.14 g) as a colorless oil.

reactant | 2-Chloro-6,7-dihydro-4H-pyrano[4,3-d]thiazole | 1.78 g | ClC=1SC2=C(N1)CCOC2 | C6H6ClNOS
reactant | sodium acetate | 830 mg | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 6,7-dihydro-4H-pyrano[4,3-d]thiazole | 1.14 g | N1=CSC2=C1CCOC2 | C6H7NOS
